US07754737B2
A stirred solution of BF3.Et2O (12.9 mg, 0.0592 mmol) and NaH (22.6 mg, 0.296 mmol) in 2-methoxyethanol (10 mL) was warmed to 55-60° C. and (3R)-tert-butyl 3-(2-(3-chlorophenyl)oxiran-2-yl)piperidine-1-carboxylate (100 mg, 0.296 mmol) was added dropwise. After addition, the reaction mixture was stirred at the same temperature overnight. The reaction mixture was concentrated and the residue was partitioned between H2O and EtOAc. The organic layer washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. LC-MS analysis of the crude product indicated the presence of two isomers. The crude product was purified by preparative HPLC to give the major isomer (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-2-(2-methoxyethoxy)ethyl)piperidine-1-carboxylate (30 mg, 0.073 mmol); 1H NMR (400 MHz, CDCl3): 1.33 (s, 9H), 1.65 (m, 1H), 1.74 (m, 1H), 1.96 (m, 1H), 2.47 (m, 2H), 3.26 (m, 2H), 3.33 (s, 3H), 3.46 (m, 2H), 3.61 (m, 2H), 3.79 (m, 1H), 3.84 (m, 1H), 3.99 (m, 1H), (m, 1H), 7.22 (m, 3H), 7.42 (s, 1H); MS (E/Z): 414 (M+H+)

reactant | BF3.Et2O | 0.0592 mmol, 12.9 mg | B(F)(F)F.CCOCC
reactant | NaH | 0.296 mmol, 22.6 mg | [H-].[Na+]
reactant | (3R)-tert-butyl 3-(2-(3-chlorophenyl)oxiran-2-yl)piperidine-1-carboxylate | 0.296 mmol, 100 mg | ClC=1C=C(C=CC1)C1(OC1)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H24ClNO3
reactant | 2-methoxyethanol | 10 mL | COCCO | C3H8O2
product | (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-2-(2-methoxyethoxy)ethyl)piperidine-1-carboxylate | 0.073 mmol, 30 mg | ClC=1C=C(C=CC1)[C@@](COCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C21H32ClNO5
